US04302607
A solution of 1.00 g (4.55 mMole) of cyclopentadeca-2,14-dien-1-one in 20 ml of ethanol was hydrogenated in the presence of 50 mg of palladium on charcoal. Hydrogen uptake (230 ml) was complete after 1 h at 20°. The mixture was filtered, evaporated and distilled to give 0.96 g (94%) of EXALTONE® having b.p. 115°/0.1 Torr; m.p. 65°-66°.

reactant | cyclopentadeca-2,14-dien-1-one | 4.55 mMole, 1.00 g | C1(C=CCCCCCCCCCCC=C1)=O | C15H24O
reactant | Hydrogen | [H][H] | H2
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 50 mg | [Pd] | Pd
product | EXALTONE | 0.96 g, 94% | C1CCCCCCCC(=O)CCCCCC1 | C15H28O
